US07186714B2
To a solution of 1-[8-chloro-2-(4-fluorophenyl)imidazo[1,2-α]pyridin-3-yl]-2-propyn-1-one (740 mg, 2.5 mmol) in ethanol (20 mL) was added cyclopentyl guanidine hydrochloride (600 mg, 3.7 mmol), followed by solid potassium carbonate (510 mg, 3.7 mmol). The resulting solution was heated at 80° C. for 12 hours. The reaction mixture was concentrated to a solid. Water and dichloromethane were added. The phases were separated and the organics were washed with brine, dried over magnesium sulfate, filtered and concentrated in vacuo. The resulting solid was crystallized from acetonitrile, to give 4-[8-chloro-2-(4-fluorophenyl)imidazo[1,2-α]pyridin-3-yl]-N-cyclopentyl-2-pyrimidinamine (600 mg, 59%) as a white solid. 1H NMR (CDCl3) δ 9.48 (d, 1H), 8.11 (d, 1H), 7.68 (q, 2H), 7.42 (d, 1H), 7.11 (t, 2H), 6.86 (t, 1H), 6.40 (d, 1H), 5.28 (d, 1H), 4.35 (m, 1H), 2.0–2.1 (m, 2H), 1.4–1.9 (m, 6H); 19F NMR (CDCl3) δ −113.0; MS m/z 408 (M+1).

reactant | 1-[8-chloro-2-(4-fluorophenyl)imidazo[1,2-α]pyridin-3-yl]-2-propyn-1-one | 2.5 mmol, 740 mg | ClC=1C=2N(C=CC1)C(=C(N2)C2=CC=C(C=C2)F)C(C#C)=O | C16H8ClFN2O
reactant | cyclopentyl guanidine hydrochloride | 3.7 mmol, 600 mg | Cl.C1(CCCC1)NC(=N)N
reactant | potassium carbonate | 3.7 mmol, 510 mg | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 4-[8-chloro-2-(4-fluorophenyl)imidazo[1,2-α]pyridin-3-yl]-N-cyclopentyl-2-pyrimidinamine | 600 mg, 59% | ClC=1C=2N(C=CC1)C(=C(N2)C2=CC=C(C=C2)F)C2=NC(=NC=C2)NC2CCCC2 | C22H19ClFN5
